US07157447B2
(2-(Azidomethyl)-5-fluorophenyl)(morpholino)methanone.
To a solution of intermediate 42, (2-(bromomethyl)-5-fluorophenyl)(morpholino)methanone, (1.0 g, 3.32 mmol) in dimethylformamide (10 mL) was added sodium azide (230 mg, 3.5 mmol) and the mixture stirred under a nitrogen atmosphere for 1 h. The solvent was evaporated in vacuo, and the residue dissolved in CH2Cl2, then washed with water. The organic phase was dried (Na2SO4), filtered, concentrated, and the residue purified by column chromatography (SiO2, CH2Cl2) to provide 770 mg (Yield 88%) of the title compound as an oil: 1H NMR (300 MHz, CDCl3) δ ppm: 3.27 (2H, s) 3.51–3.65 (2H, m) 3.66–3.97 (4H, m) 4.38 (2H, brs) 6.92 (1H, dd, J=8.2, 2.7 Hz) 7.07 (1H, dt, J=8.5, 3 Hz) 7.34 (1H, dd, J=8.4, 5.5 Hz); LC/MS m/z 265 (M+H).

reactant | (2-(bromomethyl)-5-fluorophenyl)(morpholino)methanone | 3.32 mmol, 1.0 g | BrCC1=C(C=C(C=C1)F)C(=O)N1CCOCC1 | C12H13BrFNO2
reactant | sodium azide | 3.5 mmol, 230 mg | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (2-(Azidomethyl)-5-fluorophenyl)(morpholino)methanone | 770 mg, Yield 88% | N(=[N+]=[N-])CC1=C(C=C(C=C1)F)C(=O)N1CCOCC1 | C12H13FN4O2
